US05416089
Part A: 7-Azaphenanthrene-1,10-dicarboxylic Anhydride
As described in example 14, the following compounds were prepared from dimethyl homophthalate and pyridine-3-carboxaldehyde:

reactant | dimethyl homophthalate | C(CC=1C(C(=O)OC)=CC=CC1)(=O)OC | C11H12O4
reactant | pyridine-3-carboxaldehyde | N1=CC(=CC=C1)C=O | C6H5NO
product | 7-Azaphenanthrene-1,10-dicarboxylic Anhydride | C12=CC=CC=3C4=CC=NC=C4C=C(C13)C(=O)OC2=O | C15H7NO3
